US06518423B1
Ethyl[1-[3-[(10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetylamino]propyl]piperidin-4-yl]carboxylate
To 10 ml of N,N-dimethylformamide were added 0.6 g of 10H-pyrazino[2,3-b][1,4]benzothiazine-8-acetic acid, 0.8 g of ethyl 1-(3-aminopropyl)piperidine-4-carboxylate dihydrochloride, 0.38 g of 1-hydroxybenzotriazole, 1.07 ml of triethylamine and 0.53 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide and the resulting mixture was stirred at room temperature for 22 hours. After adding water, the reaction mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and a saturated aqueous solution of sodium. chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol). The crystals thus obtained were washed with ether and thus 0.72 g of the title compound was obtained as a pale brown powder.

reactant | 10H-pyrazino[2,3-b][1,4]benzothiazine-8-acetic acid | 0.6 g | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CC(=O)O | C12H9N3O2S
reactant | ethyl 1-(3-aminopropyl)piperidine-4-carboxylate dihydrochloride | 0.8 g | Cl.Cl.NCCCN1CCC(CC1)C(=O)OCC
reactant | 1-hydroxybenzotriazole | 0.38 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.53 g | CN(CCCN=C=NCC)C | C8H17N3
solvent | water | O | H2O
solvent | triethylamine | 1.07 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Ethyl[1-[3-[(10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)acetylamino]propyl]piperidin-4-yl]carboxylate | 0.72 g | C(C)OC(=O)C1CCN(CC1)CCCNC(CC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1)=O | C23H29N5O3S
